datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2](=[C:3]([C:4]([C:5]([C:6]([C:7]([H:17])([H:18])[H:19])[C:8](=[C:9]([H:21])[H:22])[H:20])([H:15])[H:16])([H:13])[H:14])[H:12])[H:11])[H:10]>>[C:0](#[C:1][C:2]1([H:11])[C:3]([H:12])[C:4]([H:13])([H:14])[C:5]([H:15])([H:16])[C:6]1([C:7]([H:17])([H:18])[H:19])[C:8](=[C:9]([H:21])[H:22])[H:20])[H:10],102.006
[S:0][S:1][S:2][H:3]>>[H:3].[s:0]1[s:1][s:2]1,138.909
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[C:8](=[C:9]([C:10]([C:11]([H:16])([H:17])[H:18])[H:15])[H:14])([H:12])[H:13]>>[C:0](=[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])([H:4])[C:10]([C:9](=[C:8]([H:12])[H:13])[H:14])([C:11]([H:16])([H:17])[H:18])[H:15],41.8818
[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[C:21]([H:22])([H:23])[H:24]>>[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:8])[H:9].[H:7][C:21]([H:22])([H:23])[H:24],56.550944
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])[H:7])[H:6].[C:14](#[C:15][C:16]([C:17]([H:20])([H:21])[H:22])[C:18]([H:23])([H:24])[H:25])[H:19]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:8])([H:9])[H:10])[C:5]([H:11])([H:12])[H:13])([H:7])[C:16]([C:15]#[C:14][H:19])([C:17]([H:20])([H:21])[H:22])[C:18]([H:23])([H:24])[H:25])[H:6],35.0201
[C:0]([C:1]1=[C:2]([H:8])[C:3]([H:9])=[C:4]([H:10])[C:5]1([H:11])[H:12])([H:6])[H:7].[H:13]>>[C:0]([C:1]1=[C:2]([H:8])[C:3]([H:9])=[C:4]([H:10])[C:5]1([H:11])[H:12])([H:6])([H:7])[H:13],-0.004184
[C:16](=[S:17])[H:18].[S:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])([H:9])[H:10])[H:8]>>[H:9][C:16](=[S:17])[H:18].[S:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])[H:8],44.7688
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:12].[C:24]([C:25](=[C:26]([H:30])[H:31])[H:29])([H:27])[H:28]>>[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[C:24]([C:25](=[C:26]([H:30])[H:31])[H:29])([H:27])[H:28])[H:12],53.095
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[H:5])([H:3])[H:4].[C:9]([O:10])([H:11])([H:12])[H:13]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])([H:5])[O:10][C:9]([H:11])([H:12])[H:13])([H:3])[H:4],46.024
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12]([C:13](=[C:14]([O:15])[H:20])[H:19])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[H:6][O:15][C:14](=[C:13]([C:12]([H:16])([H:17])[H:18])[H:19])[H:20],50.37536
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4](=[O:5])[H:15])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:0](=[C:1]([H:9])[H:10])([H:7])[H:8].[C:2]([C:3]([H:12])([H:13])[H:14])(=[C:4]([O:5][H:6])[H:15])[H:11],214.25
[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7].[C:14](=[C:15]([H:17])[H:18])[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:9])[H:10])([C:4](=[C:5]([H:12])[H:13])[H:11])[C:14](=[C:15]([H:17])[H:18])[H:16])[H:8])([H:6])[H:7],18.2004
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[C:29]([H:30])([H:31])[H:32]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([H:26])([H:27])[H:28])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])[H:17])([H:14])[H:15])([H:12])[H:13])([H:9])([H:10])[H:11].[H:16][C:29]([H:30])([H:31])[H:32],22.92832
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([H:5])[H:6])([H:3])[H:4].[C:10]([O:11][H:14])([H:12])[H:13]>>[C:0](=[C:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])[H:4].[H:5][C:10]([O:11][H:14])([H:12])[H:13],0.0
[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])[C:7](=[C:8]([H:17])[H:18])[H:16])[H:9].[C:19](#[C:20][C:21]([H:23])[H:24])[H:22]>>[C:0](#[C:1][C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5](=[C:6]([H:14])[H:15])[H:13])([C:7](=[C:8]([H:17])[H:18])[H:16])[C:21]([C:20]#[C:19][H:22])([H:23])[H:24])[H:9],35.7732
[S:0]([H:1])[H:2].[S:3]=[C:4]([C:5]([S:6][H:9])[H:8])[H:7]>>[H:1][C:5]([C:4](=[S:3])[H:7])([S:6][H:9])[H:8].[S:0][H:2],81.588
[C:0](#[C:1][C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])=[C:5]([C:6](=[C:7]([H:15])[H:16])[H:14])[C:8](=[C:9]([H:18])[H:19])[H:17])[H:10].[H:20]>>[C:0](#[C:1][C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])[C:5]([C:6](=[C:7]([H:15])[H:16])[H:14])([C:8](=[C:9]([H:18])[H:19])[H:17])[H:20])[H:10],6.23416
[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([C:3]([H:10])([H:11])[H:12])[H:6])([H:4])[H:5].[C:13](=[O:14])[H:15]>>[C-:13]#[O+:14].[C:0]([C:1]([C:2]([H:7])([H:8])[H:9])([C:3]([H:10])([H:11])[H:12])[H:6])([H:4])([H:5])[H:15],0.0
